US06313162B1
(e) 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid
2.1 ml (8.1 mmol) of BF3.Et2O (48%) and 50 ml of dichloromethane are introduced into a three-necked flask under a stream of nitrogen. 2.6 ml (16.2 mmol) of triethylsilane are added at −20° C., followed by a solution of 1 g (2.7 mmol) of 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid in 30 ml of dichloromethane and the mixture is stirred at room temperature for 30 minutes. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified on a column of silica eluted with dichloromethane. After evaporation of the solvents, 780 mg (82%) of 4-[3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid are collected, with a melting point of 167-8° C.

reactant | BF3.Et2O | 8.1 mmol, 2.1 ml | B(F)(F)F.CCOCC
reactant | triethylsilane | 16.2 mmol, 2.6 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | 4-[3-hydroxy-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid | 2.7 mmol, 1 g | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H26O3
reactant | water | O | H2O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[3-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-1-propynyl]benzoic acid | CC1(C=2C=CC(=CC2C(CC1)(C)C)CC#CC1=CC=C(C(=O)O)C=C1)C | C24H26O2
